US04607030
2-Aminomethyl-4-(1,1-dimethylethyl)-6-dimethylsulfamoylphenol hydrochloride
This compound is prepared analogously to Examples 11c and 11d from 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol and dimethylamine.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | dimethylamine | CNC | C2H7N
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-dimethylsulfamoylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(N(C)C)(=O)=O)O | InChI=1S/C13H22N2O3S.ClH/c1-13(2,3)10-6-9(8-14)12(16)11(7-10)19(17,18)15(4)5;/h6-7,16H,8,14H2,1-5H3;1H
